US09120822B2
10% Palladium on activated carbon (500 mg, 4.70 mmol, 1.09 eq) is added at room temperature to a stirred solution of acetic acid 4-acetoxy-3-(trans-4-tert-butoxycarbonylamino-cyclo hexyl)-6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-2-yl ester (2.3 g, 4.29 mmol, 1.0 eq) in methanol (60 mL). The reaction mixture is stirred at room temperature under hydrogen flow (10 bars) for 72 hours. The catalyst is then removed by filtration and the solution is concentrated to afford acetic acid 3-(trans-4-tert-butoxycarbonylamino-cyclohexyl)-6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-2-yl ester as a yellow semisolid (1.45 g, 71% yield) which is directly engaged in the next step.

reactant | acetic acid 4-acetoxy-3-(trans-4-tert-butoxycarbonylamino-cyclo hexyl)-6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-2-yl ester | 4.29 mmol, 2.3 g, 1.0 eq | C(C)(=O)OC1C(C(OC=2C=NC3=CC=C(C=C3C12)OC)OC(C)=O)[C@@H]1CC[C@H](CC1)NC(=O)OC(C)(C)C | C28H36N2O8
catalyst | Palladium on activated carbon | 4.70 mmol, 500 mg, 1.09 eq | [Pd] | Pd
solvent | methanol | 60 mL | CO | CH4O
product | acetic acid 3-(trans-4-tert-butoxycarbonylamino-cyclohexyl)-6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-2-yl ester | 1.45 g, 71% yield | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)C1C(OC=2C=NC3=CC=C(C=C3C2C1)OC)OC(C)=O | C26H34N2O6
